US07008962B2
A solution of 3-ethoxy-4-(2-Hydroxy-4-nitroanilino)-3-cyclobutene-1,2-dione (0.39 g, 1.4 mmol) and 2-bromoaniline (0.36 g, 2.09 mmol) in 2 mL DMSO was heated at 110° C. for overnight. The reaction mixture was cooled to room temperature, and ethylacetate was added, and a precipitate formed. The filtrate was partitioned between ethylacetate and water. The organic layer was dried over sodium sulfate and concentrated. Titration from acetone and hexanes gave 106 mg (19%) of 3-(2-bromoanilino)-4-(2-hydroxy-4-nitroanilino)-3-cyclobutene-1,2-dione. LCMS(H+) 404

reactant | 3-ethoxy-4-(2-Hydroxy-4-nitroanilino)-3-cyclobutene-1,2-dione | 1.4 mmol, 0.39 g | C(C)OC=1C(C(C1NC1=C(C=C(C=C1)[N+](=O)[O-])O)=O)=O | C12H10N2O6
reactant | 2-bromoaniline | 2.09 mmol, 0.36 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-(2-bromoanilino)-4-(2-hydroxy-4-nitroanilino)-3-cyclobutene-1,2-dione | 106 mg, 19% | BrC1=C(NC=2C(C(C2NC2=C(C=C(C=C2)[N+](=O)[O-])O)=O)=O)C=CC=C1 | C16H10BrN3O5
